US06384115B1
(b) N-(3-hydroxypropyl)benzenesulphonamide (AY)
The preparation is carried out as in Example 1(a) from 353 g of benzenesulphonyl chloride (2 mol) and 157.7 g of 3-amino-1-propanol (2.1 mol). The amount obtained is 406.7 g, i.e. a yield of 99.5%.

reactant | benzenesulphonyl chloride | 2 mol, 353 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 3-amino-1-propanol | 2.1 mol, 157.7 g | NCCCO | C3H9NO
product | N-(3-hydroxypropyl)benzenesulphonamide | yield of 99.5% | OCCCNS(=O)(=O)C1=CC=CC=C1 | C9H13NO3S
